US04837392
Starting from 2.39 g (5.13 mmol) of tris(3-trifluoromethylphenyl)phosphine and 1.10 g (7.75 mmol, 1.51 eq) of methyl iodide, 2.57 g (4.23 mmol, 82.4%) of methyltris(3-trifluoromethylphenyl)phosphonium iodide was obtained: mp 225.1°-229.3° C. (dec).

reactant | tris(3-trifluoromethylphenyl)phosphine | 5.13 mmol, 2.39 g | FC(C=1C=C(C=CC1)P(C1=CC(=CC=C1)C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)(F)F | C21H12F9P
reactant | methyl iodide | 7.75 mmol, 1.10 g, 1.51 eq | CI | CH3I
product | methyltris(3-trifluoromethylphenyl)phosphonium iodide | 4.23 mmol, 2.57 g, 82.4% | [I-].C[P+](C1=CC(=CC=C1)C(F)(F)F)(C1=CC(=CC=C1)C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C22H15F9P.HI/c1-32(17-8-2-5-14(11-17)20(23,24)25,18-9-3-6-15(12-18)21(26,27)28)19-10-4-7-16(13-19)22(29,30)31;/h2-13H,1H3;1H/q+1;/p-1
